US06177423B1
5-Bromo-2-hydroxy-7-(piperidin-1-yl)-benzo[de]isoquinoline-1,3-dione
Following the procedure of Example 52, 2-benzyloxy-5-bromo-7-(piperidin-1-yl)-benzo[de]isoquinoline-1,3-dione (0.090 g, 0.19 mmol, from Example T1-B), and a 1.0 M solution of boron tris(trifluoroacetate) in TFA (2 mL) were reacted to give 0.020 g of the title compound as the trifluoroacetate salt, mp 134-136° C.

reactant | 2-benzyloxy-5-bromo-7-(piperidin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.19 mmol, 0.090 g | C(C1=CC=CC=C1)ON1C(C2=CC=C(C=3C2=C(C1=O)C=C(C3)Br)N3CCCCC3)=O | C24H21BrN2O3
reactant | boron tris(trifluoroacetate) | FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.[B+3]
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-Bromo-2-hydroxy-7-(piperidin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.020 g | BrC=1C=C2C3=C(C(N(C(C3=CC=C2N2CCCCC2)=O)O)=O)C1 | C17H15BrN2O3
